US06579883B1
3a-Fluoro-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one
A solution of 1.44 g (3.9 mmol) of 5-tert-butoxycarbonyl-3a-fluoro-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]-quinolin-4-one in 20 ml of dichloromethane is mixed with 8 ml of trifluoroacetic acid at room temperature. After 2 hours, the batch is diluted with water and ethyl acetate. The organic phase is separated, washed with water, saturated NaHCO3 and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography of the residue on silica gel with hexane-ethyl acetate yields 0.53 g of product.

reactant | 5-tert-butoxycarbonyl-3a-fluoro-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]-quinolin-4-one | 3.9 mmol, 1.44 g | C(C)(C)(C)OC(=O)N1C(C2(C(C=3C=CC(=CC13)C=1OC=CC1)CCC2)F)=O | C21H22FNO4
reactant | trifluoroacetic acid | 8 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3a-Fluoro-7-(2-furanyl)-1,2,3,3a,5,9b-hexahydrocyclopenta[c]quinolin-4-one | 0.53 g | FC12C(NC=3C=C(C=CC3C1CCC2)C=2OC=CC2)=O | C16H14FNO2
